US07241460B2
Production of Strontium Hippurate
Strontium carbonate (0.5 g, 3.39 mmol) and hippuric acid (1.215 g, 6.77 mmol) in water (30 ml) were stirred at 70° C. for 5 hours. The mixture was filtered and the filtrate was evaporated to dryness and dried in vacuo at ambient temperature. Yield 1.25 g (83%).

reactant | Strontium carbonate | 3.39 mmol, 0.5 g | C([O-])([O-])=O.[Sr+2]
reactant | hippuric acid | 6.77 mmol, 1.215 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
solvent | water | 30 ml | O | H2O
product | Strontium Hippurate | C(CNC(=O)C1=CC=CC=C1)(=O)[O-].[Sr+2].C(CNC(=O)C1=CC=CC=C1)(=O)[O-] | InChI=1S/2C9H9NO3.Sr/c2*11-8(12)6-10-9(13)7-4-2-1-3-5-7;/h2*1-5H,6H2,(H,10,13)(H,11,12);/q;;+2/p-2
